US06277993B1
To a solution of hydroxylamine hydrochloride (4.17 g) in water (50 ml) was added sodium carbonate (3.18 g) with stirring under ice cooling. To the solution were subsequently added ethanol (200 ml) and 1,2-dihydro-5-methyl-2-oxo-1,6-naphthyridine-3-carbonitrile (3.70 g), and the mixture was refluxed for 2 hours. After distilling off the solvent under reduced pressure, water was added to the residue, and the precipitated crystals were separated by filtration. The product was washed with water, isopropanol, diisopropyl ether in this order, and dried to give 1,2-dihydro-5-methyl-2-oxo-1,6-naphthyridin-3-amidoxime (4.2 g). This compound was used in the next reaction without being purified.

reactant | hydroxylamine hydrochloride | 4.17 g | Cl.NO
reactant | sodium carbonate | 3.18 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | ethanol | 200 ml | C(C)O | C2H6O
reactant | 1,2-dihydro-5-methyl-2-oxo-1,6-naphthyridine-3-carbonitrile | 3.70 g | CC1=C2C=C(C(NC2=CC=N1)=O)C#N | C10H7N3O
solvent | water | 50 ml | O | H2O
product | 1,2-dihydro-5-methyl-2-oxo-1,6-naphthyridin-3-amidoxime | 4.2 g | CC1=C2C=C(C(NC2=CC=N1)=O)C(N)=NO | C10H10N4O2
